datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])[H:9])[H:8].[C:16]([C:17]([H:20])([H:21])[H:22])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:9])[C:16]([C:17]([H:20])([H:21])[H:22])([H:18])[H:19])[H:8],6.276
[C:0](#[C:1][C:2]([C:3]#[C:4][H:14])=[C:5]([C:6]([H:15])([H:16])[H:17])[c:7]1[c:8]([H:18])[c:9]([H:19])[c:10]([H:20])[c:11]([H:21])[c:12]1[H:22])[H:13].[H:23]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:14])[C:5]([C:6]([H:15])([H:16])[H:17])([c:7]1[c:8]([H:18])[c:9]([H:19])[c:10]([H:20])[c:11]([H:21])[c:12]1[H:22])[H:23])[H:13],11.7152
[C:0](=[C:1]([c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]1[C:8](=[C:9]([H:17])[H:18])[H:16])[H:11])[H:10]>>[C:0]1([H:10])=[C:1]([H:11])[c:2]2[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]2[C:8]1([C:9]([H:17])[H:18])[H:16],9.652488
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6]([C:7]([C:8]([H:14])([H:15])[H:16])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:12])[H:3].[C:6]([C:7]([C:8]([H:14])([H:15])[H:16])[H:13])([H:9])([H:10])[H:11],59.9149
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]#[C:5][H:10])[H:6].[S:11]([c:12]1[c:13]([H:19])[c:14]([H:20])[c:15]([H:21])[c:16]([H:22])[c:17]1[H:23])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]#[C:5][H:10])[H:18])[H:6].[S:11][c:12]1[c:13]([H:19])[c:14]([H:20])[c:15]([H:21])[c:16]([H:22])[c:17]1[H:23],32.2168
[C:0]([C:1]([O:2][O:3][H:10])([C:4]([C:5]([H:12])([H:13])[H:14])([C:6]([H:15])([H:16])[H:17])[H:11])[H:9])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([C:4]([C:5]([H:12])([H:13])[H:14])([C:6]([H:15])([H:16])[H:17])[H:11])([H:9])[O:2]1.[O:3][H:10],43.932
[C:0](=[C:1]([C:2]([S:3][H:9])([H:7])[H:8])[H:6])([H:4])[H:5].[C:10]([C:11]([S:12][H:17])[H:16])([H:13])([H:14])[H:15]>>[C:0](=[C:1]([C:2]([S:3][H:9])[H:8])[H:6])([H:4])[H:5].[H:7][C:11]([C:10]([H:13])([H:14])[H:15])([S:12][H:17])[H:16],7.5312
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:29][O:30][H:31]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11].[H:9][O:29][O:30][H:31],68.99416
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])[H:7])[H:6].[C:14]([C:15](=[C:16]([H:20])[H:21])[H:19])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])([C:5]([H:11])([H:12])[H:13])[C:14]([C:15](=[C:16]([H:20])[H:21])[H:19])([H:17])[H:18])[H:7])[H:6],46.3169
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:6])[H:5].[C:13]([C:14]([S:15][H:21])[C:16](=[S:17])[H:22])([H:18])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:5].[H:6][C:14]([C:13]([H:18])([H:19])[H:20])([S:15][H:21])[C:16](=[S:17])[H:22],71.5464
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12]([S:13][H:17])([H:14])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[S:13][C:12]([H:14])([H:15])[H:16])[H:5].[H:17],113.386
[C:0]([O:1][C:2]([O:3])([H:7])[H:8])([H:4])([H:5])[H:6].[O:9][O:10]>>[C:0]([O:1][C:2](=[O:3])[H:8])([H:4])([H:5])[H:6].[H:7][O:9][O:10],-23.016184
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][H:10])[H:6])[H:5].[C:11]([C:12](=[C:13]([H:17])[H:18])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[S:4][H:10])[H:5].[H:6][C:11]([C:12](=[C:13]([H:17])[H:18])[H:16])([H:14])[H:15],25.9408
[C:0]([C:1]([C:2]([C:3]1([H:12])[C:4]([H:13])([H:14])[C:5]1([H:15])[H:16])([H:10])[H:11])[H:9])([H:6])([H:7])[H:8]>>[C:0]([C:1]([C:2]([C:3]1[C:4]([H:13])([H:14])[C:5]1([H:15])[H:16])([H:10])[H:11])([H:9])[H:12])([H:6])([H:7])[H:8],169.034
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[C:5]([H:14])[H:15])[H:13])[H:9])[H:8])([H:6])[H:7].[C:16]([C:17](=[S:18])[H:21])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[C:5]([H:14])[H:15])[H:13])[H:8])([H:6])[H:7].[H:9][C:16]([C:17](=[S:18])[H:21])([H:19])[H:20],19.0372
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8](=[C:9]([C:10]([C:11]([H:16])([H:17])[H:18])[H:15])[H:14])([H:12])[H:13]>>[C:0](=[C:1][C:2](=[S:3])[H:7])([H:4])[H:5].[H:6][C:10]([C:9](=[C:8]([H:12])[H:13])[H:14])([C:11]([H:16])([H:17])[H:18])[H:15],113.763
